US07960394B2
2-[4-(1-Cyclobutyl-4-piperidinyloxy)phenyl]-3-(2-methoxyethyl)pyrido[2,3-d]pyrimidin-4(3H)-one
The entitled compound was obtained according to the method of Example 15 but starting from 2-aminonicotinic acid, 2-methoxyethylamine and 4-[(1-cyclobutyl-4-piperidinyl)oxy]benzaldehyde.

reactant | 2-aminonicotinic acid | NC1=C(C(=O)O)C=CC=N1 | C6H6N2O2
reactant | 2-methoxyethylamine | COCCN | C3H9NO
reactant | 4-[(1-cyclobutyl-4-piperidinyl)oxy]benzaldehyde | C1(CCC1)N1CCC(CC1)OC1=CC=C(C=O)C=C1 | C16H21NO2
product | 2-[4-(1-Cyclobutyl-4-piperidinyloxy)phenyl]-3-(2-methoxyethyl)pyrido[2,3-d]pyrimidin-4(3H)-one | C1(CCC1)N1CCC(CC1)OC1=CC=C(C=C1)C=1N(C(C2=C(N1)N=CC=C2)=O)CCOC | C25H30N4O3
